US04310346
In a pressure vessel, 109 g of N,N-dimethyl-2-nitro-4-(trifluoromethyl)benzenesulfonamide, 250 ml of ethyl acetate and 5 g of 10% palladium-on-carbon were shaken at 130° under 500 psi hydrogen pressure until no more hydrogen was absorbed, as determined by no additional pressure drop. The reaction mixture was cooled and the catalyst filtered off. The solution was stripped in vacuo to give 95.2 g of 2-amino-N,N-dimethyl-4-(trifluoromethyl)benzenesulfonamide as a slowly crystalizing oil, m.p. 65°-70° C.

reactant | N,N-dimethyl-2-nitro-4-(trifluoromethyl)benzenesulfonamide | 109 g | CN(S(=O)(=O)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])C | C9H9F3N2O4S
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | 5 g | [Pd] | Pd
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 2-amino-N,N-dimethyl-4-(trifluoromethyl)benzenesulfonamide | 95.2 g | NC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)N(C)C | C9H11F3N2O2S
